US20010053776A1
c) 1-{4-[3-(tert-Butyldimethylsilanyloxy)propyl]pyridin-3-yl}-2-(pyridin-4-yl)ethanone
3-{4-[3-(tert-Butyldimethylsilanyloxy)propyl]pyridin-3-yl}-3-oxo-2-(pyridin-4-yl)propionic acid benzyl ester (32.5 g, 64.4 mmol) was dissolved in ethanol (600 ml) in a 3 neck flask and the system flushed with nitrogen. Palladium on carbon catalyst (3.25 g, 10% Pd) was added as a slurry in water (10 ml) (to reduce risk of fire) followed by ammonium formate (20.3 g, 322 mmol). The flask was fitted with a condenser and heated to 60° C. for 30 minutes. The reaction was allowed to cool and then filtered through celite and the filtrate was evaporated in vacuo and the residue partitioned between water (500 ml) and EtOAc (500 ml). The organic layer was washed with brine, dried (Na2SO4) and evaporated to afford the product as a colourless oil (21.6 g, 91%) which was used without further purification. 1H NMR (400 MHz, CDC13) δ 0.01 (s, 6H), 0.86 (s, 9H), 1.58-1.69 (m, 2H), 2.77-2.81 (m, 2H), 3.57 (t, J=6, 2H), 4.19 (s, 2H), 7.16-7.28 (m, 6H), 8.50 (d, J=5, 1H), 8.90 (s, 1H). ml/z (ES+) 370 (M++H).

reactant | 3-{4-[3-(tert-Butyldimethylsilanyloxy)propyl]pyridin-3-yl}-3-oxo-2-(pyridin-4-yl)propionic acid benzyl ester | 64.4 mmol, 32.5 g | C(C1=CC=CC=C1)OC(C(C(=O)C=1C=NC=CC1CCCO[Si](C)(C)C(C)(C)C)C1=CC=NC=C1)=O | C29H36N2O4Si
reactant | ammonium formate | 322 mmol, 20.3 g | C(=O)[O-].[NH4+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 1-{4-[3-(tert-Butyldimethylsilanyloxy)propyl]pyridin-3-yl}-2-(pyridin-4-yl)ethanone | 21.6 g, 91% | [Si](C)(C)(C(C)(C)C)OCCCC1=C(C=NC=C1)C(CC1=CC=NC=C1)=O | C21H30N2O2Si
